US06248764B1
[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3,5-diisopropyl-p-anisic acid (0.983 g, 4.16 mmol, RN-117439-59-5), oxalyl chloride (0.398 mL, 4.56 mmol), N,N-dimethylformamide (2 drops), tin (IV) chloride (0.535 mL, 4.58 mmol) and 2-(2-bromo-benzyl)-4,5-dimethyl-furan (1.10 g, 4.16 mmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with 3% EtOAc/pet. ether gave 0.990 g (49%) of the title compound as a clear oil. 1H NMR (DMSO-d6) δ1.15 (d, 12H), 1.84 (s, 3H), 2.18 (s, 3H), 3.27 (septet, 2H), 3.73 (s, 3H), 3.91 (s, 2H), 7.12-7.16 (m, 2H), 7.29 (t, 1H, 7.44 (s, 2H), 7.50 (d, 1H).

reactant | 3,5-diisopropyl-p-anisic acid | 4.16 mmol, 0.983 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 4.56 mmol, 0.398 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 4.58 mmol, 0.535 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(2-bromo-benzyl)-4,5-dimethyl-furan | 4.16 mmol, 1.10 g | BrC1=C(CC=2OC(=C(C2)C)C)C=CC=C1 | C13H13BrO
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 0.990 g, 49% | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)OC)C(C)C)C)C)C=CC=C1 | C27H31BrO3
